US07425568B2
Cesium carbonate (310 mg) and chloroacetonitrile (62 μl) were added into a solution of 2-phenylchroman-6-ol (200 mg) in acetonitrile (3 ml). The resulting mixture was refluxed for 6 hours. The reaction mixture was allowed to cool to room temperature and 1 M HCl-solution was added and it was extracted with ethyl acetate. The combined organic layers were washed with water and saturated NaCl-solution and dried with Na2SO4. The solvents were evaporated under reduced pressure to give (2-phenylchroman-6-yloxy)acetonitrile. 1H NMR (400 MHz, d6-DMSO) δ: 7.44-7.30 (m, 5H), 6.86-6.81 (m, 3H), 5.08 (dd, 1H, J 9.8, 2.2 Hz), 5.07 (s, 2H), 2.97 (ddd, 1H, J −16.9, 10.9, 6.0. Hz), 2.71 (ddd, 1H, J −16.9, 5.0, 3.4 Hz), 2.15 (m, 1H), 1.97 (m, 1H).

reactant | Cesium carbonate | 310 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloroacetonitrile | 62 μl | ClCC#N | C2H2ClN
reactant | 2-phenylchroman-6-ol | 200 mg | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H14O2
reactant | HCl | 1 M | Cl | ClH
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (2-phenylchroman-6-yloxy)acetonitrile | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OCC#N | C17H15NO2
